US07687502B2
[6-(Pyridin-2-yloxy)-quinazolin-4-yl]-thiazolo-[5,4-b]pyridin-2-yl-amine
The compound of Example 82 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 2-fluoropyridine, thiazolo[5,4-b]pyridin-2-yl-amine and 4-chloro-6-hydroxy-quinazoline.

reactant | 2-fluoropyridine | FC1=NC=CC=C1 | C5H4FN
reactant | thiazolo[5,4-b]pyridin-2-yl-amine | N1=C(SC2=NC=CC=C21)N | C6H5N3S
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | [6-(Pyridin-2-yloxy)-quinazolin-4-yl]-thiazolo-[5,4-b]pyridin-2-yl-amine | N1=C(C=CC=C1)OC=1C=C2C(=NC=NC2=CC1)NC=1SC2=NC=CC=C2N1 | C19H12N6OS
